US05028602
6-Methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine
Zinc powder (0.73 g) was added to a stirred solution of 1,3-dibromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine hydrochloride (0.98 g) in acetic acid (20 ml) under nitrogen and the mixture heated under reflux. Further portions of zinc powder (0.73 g) were added after 2 hours and 20 hours heating. After a total of 24 hours heating the mixture was evaporated, water (30 ml) 0.880 ammonia solution (10 ml) added, and extracted with dichloromethane (2×30 ml). The extracts were dried, filtered and evaporated to a yellow oil. Chromatography on silica (2% methanol in dichloromethane) gave the title product as a colourless oil. 1H NMR o(CDCl3) 7.24-7.39 (5H,m,ArH), 6.92 (lH,d,J=3.1 Hz, H1), 6.25 (lH,d,J=3.1 Hz, H3), 4.17 (lH,d,J=9.7 Hz, PhCH), 2.80-3.06 (5H,m,5-CH2 -CHeq 8-CH2), 2.45 (3H,s, NCH3), 2.30-2.50 (lH,m,7-CHax).

reactant | 1,3-dibromo-6-methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine hydrochloride | 0.98 g | Cl.BrC=1SC(=C2C1CCN(CC2C2=CC=CC=C2)C)Br
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.73 g | [Zn] | Zn
catalyst | zinc | 0.73 g | [Zn] | Zn
product | 6-Methyl-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine | CN1CCC=2C(C(C1)C1=CC=CC=C1)=CSC2 | C15H17NS
